US05250697
To 200 mg of powdery Molecular Sieves 4A, which had been dried by heating, were added 0.41 ml (0.050 mmol) of the toluene solution obtained above, 1.5 ml of toluene and 2 ml of petroleum ether (boiling point: ca. 80° C.) in an argon atmosphere. Further, 100.15 mg (0.502 mmol) of 3-[(E)-3-(methoxycarbonyl)propenoyl]-oxazolidin-2-one was added thereto and the mixture was cooled to 0° C. To the obtained suspension was added 135 mg (1.88 mmol) of 1-methylthioacetylene dissolved in 1.5 ml of petroleum ether. Next, the mixture was stirred at the same temperature for 24 hours. Then a 0.2M phosphate buffer solution (pH 7.0) was added to the reaction mixture to thereby cease the reaction. After filtering off inorganic matters with Celite, organic matters were extracted with ethyl acetate. The extract was washed with a saturated aqueous solution of common salt and dried over anhydrous sodium sulfate. After distilling off the solvent under reduced pressure, the residue was purified by thin layer chromatography (ethyl acetate:hexane=1:1, v/v). Thus 113 mg (83%) of (-)-(3R,4R)-3-methoxycarbonyl- 1-methylthio-4-(oxazolidin-2-on-3-yl)carbonyl-1-cyclobutene was obtained. The optical purity of this compound determined by the method as will be described in Referential Example exceeded 98% ee.

reactant | 3-[(E)-3-(methoxycarbonyl)propenoyl]-oxazolidin-2-one | 0.502 mmol, 100.15 mg | COC(=O)/C=C/C(=O)N1C(OCC1)=O | C8H9NO5
reactant | 1-methylthioacetylene | 1.88 mmol, 135 mg | CSC#C | C3H4S
reactant | phosphate | 0.2M, pH 7.0 | P(=O)([O-])([O-])[O-]
solvent | toluene | 1.5 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.050 mmol, 0.41 ml | C1(=CC=CC=C1)C | C7H8
product | (-)-(3R,4R)-3-methoxycarbonyl- 1-methylthio-4-(oxazolidin-2-on-3-yl)carbonyl-1-cyclobutene | 113 mg, 83% | COC(=O)[C@@H]1C=C([C@H]1C(=O)N1C(OCC1)=O)SC | C11H13NO5S
